Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Iodine / Shellfish Derived / Bactrim
 
Attending: ___.
 
Chief Complaint:
Headache 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo G3P3 PPD ___ s/p SVD presents with HA x 2 days. She
reports the headache is posterior and radiates to the neck. 
There
are no alleviating or agrevating factors. She denies RUQ pain or
visual changes. 

Her delivery was uncomplicated and she denies any history of 
cHTN
or gHTN in the past. She is breastfeeding and her vaginal
bleeding is scant. She denies fevers or chills and her Tmax at
home was 99. 

ROS: positive for sore throat and cervical LAD. no cough. Denies
CP or SOB. Does admit to a midline "chest heaviness" which is 
not
positional, not painful, nonradiating. She denies N/V. She has
been breastfeeding well without issue.

In the ED the patient's blood pressures were 180s/100s. She was
treated with IV hydralazine 10 mg IV x 1 and her blood pressures
improved to 140s-150s/80s-90s. She was started on a magnesium
bolus of 4g and continued on 2g / hr. She was started on
Labetalol 200 PO BID.

 
Past Medical History:
POBHx:
___ SVD no complications
___ SVD no complications
___ SVD no complications

PGynHx: +HPV during this pregnancy.  Otherwise no history of
abnlPap smear, STIs.  +Fibroid 2 cm fundal.
PMH: 
-___ esophagus
-history of benign thyroid cyst
PSH: umbilical hernia repair

 
Social History:
Denies t/e/d.  Works as ___ at ___ (outpatient
pedi). Denies DV or assault

 
Physical Exam:
98 85 183/97--> 168/98, 180/90 18 100% RA 
NAD
RRR no m/g/r
CTAB
Abd: soft, Nontender. No rebound or guarding. FF@U-4
Ext: NT. trace edema b/l. +2 DTRs

 
Pertinent Results:
___ 05:54AM BLOOD WBC-7.3 RBC-4.31 Hgb-12.9 Hct-40.6 MCV-94 
MCH-29.9 MCHC-31.8 RDW-13.0 Plt ___
___ 04:50PM BLOOD WBC-7.0 RBC-4.71 Hgb-13.7 Hct-44.2# 
MCV-94 MCH-29.1 MCHC-31.0 RDW-12.8 Plt ___
___ 05:54AM BLOOD Neuts-81.9* Lymphs-11.7* Monos-5.4 
Eos-0.6 Baso-0.4
___ 04:50PM BLOOD Neuts-73.7* ___ Monos-5.2 Eos-1.4 
Baso-0.7
___ 05:54AM BLOOD Plt ___
___ 05:54AM BLOOD ___ PTT-28.8 ___
___ 04:50PM BLOOD Plt ___
___ 05:54AM BLOOD ___ 05:54AM BLOOD Glucose-111* UreaN-13 Creat-0.9 Na-141 
K-3.6 Cl-109* HCO3-22 AnGap-14
___ 04:50PM BLOOD Glucose-77 UreaN-18 Creat-1.0 Na-142 
K-4.3 Cl-107 HCO3-21* AnGap-18
___ 05:54AM BLOOD ALT-36 AST-23
___ 04:50PM BLOOD ALT-45* AST-27 AlkPhos-97 TotBili-0.5
___ 05:54AM BLOOD Calcium-7.4* Phos-3.5 Mg-7.4* UricAcd-5.7
___ 04:50PM BLOOD Albumin-4.0 Calcium-9.5 Phos-3.3 Mg-2.1 
UricAcd-5.7

CT Head: HEAD CT WITHOUT INTRAVENOUS CONTRAST:  No intra- or 
extra-axial hemorrhage, 
mass effect, or shift of midline structures is present.  
Differentiation of 
gray and white matter is preserved.  Sulci, ventricles, and 
basal cisterns are 
within normal limits.  Visualized paranasal sinuses and mastoid 
air cells are 
clear.  Surrounding osseous and soft tissue structures are 
within normal 
limits. 
  
IMPRESSION:  No acute intracranial process. 

 
Brief Hospital Course:
Ms. ___ was initially transferred from the ED to Labor and 
Delivery for further management. She received a 4gm Magnesium 
bolus followed by 2gm/hour infusion which she tolerated well. 
Her blood pressures remained well controlled on Labetalol 200 
BID after receiving IV Hydralazine in the ED. She received 
Magnesium for 24 hours. She was discharged home in stable 
condition on hospital day # 3. 
 
Discharge Medications:
1. labetalol 200 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Preeclampsia 
 
Discharge Condition:
good

 
Discharge Instructions:
call for increased pain, bleeding or fever
 
Followup Instructions:
___